US07666879B2
B. {4-[7-(6-Fluoro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester
Suspend [4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-carbamic acid tert-butyl ester (1.90 g, 5.30 mmol, 1.0 eq.) in dioxane/water (2:1, 36 mL). Add 2-fluoro-5-pyridine boronic acid (0.75 g, 5.30 mmol, 1.0 eq.), K3PO4 (2.25 g, 10.6 mmol, 2.0 eq.), and S-phos (0.272 g, 0.66 mmol, 0.125 eq.). Deoxygenate the mixture and fill with nitrogen. Add Pd(OAc)2 (0.059 g, 0.265 mmol, 0.05 eq.). Deoxygenate the reaction mixture and fill with nitrogen. Stir the reaction at 80° C. under nitrogen for 16 hours. A white solid is formed after the solution is cooled down. Filter off the white solid, wash with water (3×15 mL), EtOAc (3×15 mL). Collect the solid (1.50 g). Purify the filtrate by silica gel flash chromatography with a 0-5% MeOH/DCM gradient to afford the title compound (0.52 g) as a slightly yellow solid. Combine the chromatography product and the filtered solids to give slightly yellow solid. (2.02 g, 4.83 mmol) MS(ES), m/z 419 (M+1).

reactant | [4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-carbamic acid tert-butyl ester | 5.30 mmol, 1.90 g, 1.0 eq. | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)Cl)=O | C19H20ClN3O2
reactant | 2-fluoro-5-pyridine boronic acid | 5.30 mmol, 0.75 g, 1.0 eq. | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | K3PO4 | 10.6 mmol, 2.25 g, 2.0 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-phos | 0.66 mmol, 0.272 g, 0.125 eq. | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | dioxane water | 36 mL | O1CCOCC1.O
catalyst | Pd(OAc)2 | 0.265 mmol, 0.059 g, 0.05 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {4-[7-(6-Fluoro-pyridin-3-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester | 0.52 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NC(=CC2)F)=O | C24H23FN4O2
